US07288653B2
8-methoxycarbonylmethyl-5-phenyl-6,7,8,9-tetrahydro-1H-pyrrolo-[3,2-h]-isoquinoline-2,3-dione (Compound 1A)
A suspension of 5-phenyl-6,7,8,9-tetrahydro-1H-pyrrolo[3,2-h]-isoquinoline-2,3-dione (0.278 g), methylbromoacetat (107.35 μl) and potassium carbonate (0.138 g) in methanol (20 ml) was stirred at room temperature for 24 hours. The suspension was partly evaporated and water (20 ml) was added. This afforded a solid precipitate which was collected by filtration.

reactant | 5-phenyl-6,7,8,9-tetrahydro-1H-pyrrolo[3,2-h]-isoquinoline-2,3-dione | 0.278 g | C1(=CC=CC=C1)C=1C=2CCNCC2C2=C(C1)C(C(N2)=O)=O | C17H14N2O2
reactant | methylbromoacetat | 107.35 μl | COC(CBr)=O | C3H5BrO2
reactant | potassium carbonate | 0.138 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 8-methoxycarbonylmethyl-5-phenyl-6,7,8,9-tetrahydro-1H-pyrrolo-[3,2-h]-isoquinoline-2,3-dione | COC(=O)CN1CC=2C3=C(C=C(C2CC1)C1=CC=CC=C1)C(C(N3)=O)=O | C20H18N2O4
